US07153851B2
(3R,4S)-3-Azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine (1.35 g) was dissolved in ethanol (30 mL). To this solution, platinum oxide (IV) (190 mg) was added and the mixture was stirred at room temperature for 2 hours in a stream of hydrogen (provided from a balloon). Subsequently, the catalyst was collected from the reaction mixture by filtration through a Celite pad. The collected catalyst and the Celite pad were washed with ethanol. The filtrate and the washing solution were combined and the combined organic layer was concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=ethyl acetate: methanol=10:1) to give 1.13 g of (3S,4S)-3-aminomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine as a pale brown oil.

reactant | (3R,4S)-3-Azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine | 1.35 g | N(=[N+]=[N-])C[C@H]1CN(C[C@H]1F)C(=O)OCC1=CC=CC=C1 | C13H15FN4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | platinum oxide | 190 mg | [Pt]=O
product | (3S,4S)-3-aminomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine | 1.13 g | NC[C@H]1CN(C[C@H]1F)C(=O)OCC1=CC=CC=C1 | C13H17FN2O2
